US08809369B2
A mixture of 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (3.0 g, 7.65 mmol), 1-o-tolyl-piperazine hydrochloride (1.95 g, 9.2 mmol), palladium (II) acetate (172 mg, 0.77 mmol), xantphos (266 mg, 0.46 mmol) and cesium carbonate (5.0 g, 15.3 mmol) in toluene (20 mL) was heated for 3 h at 120° C. After colling to room temperature, the mixture was treated with ethyl acetate (50 mL) and washed with water (20 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Purification on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (50% ethyl acetate/hexanes) to afford 6-fluoro-4,4-dimethyl-2-[3-(4-o-tolyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (2.2 g, 60%) as a white solid: MS (ESI) M+1=488.4.

reactant | 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 7.65 mmol, 3.0 g | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)F | C19H19BrFNO2
reactant | 1-o-tolyl-piperazine hydrochloride | 9.2 mmol, 1.95 g | Cl.C1(=C(C=CC=C1)N1CCNCC1)C
reactant | xantphos | 0.46 mmol, 266 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 15.3 mmol, 5.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.77 mmol, 172 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 6-fluoro-4,4-dimethyl-2-[3-(4-o-tolyl-piperazin-1-yl)-phenyl]-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 2.2 g, 60% | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)C)(C)C)F | C30H34FN3O2
